US06437150B1
4-Oxo-nonanoic Acid 3,7-Dimethyl-octa-2,6-dienyl Ester
A solution of 20 g 4-oxo-nonanoic acid, 19.3 g geraniol, 26.8 g N,N-dicyclohexyl-carbodiimide and 1.0 g 4-pyrrolidinopyridine in 300 ml of dichloromethane was stirred for 24 hours at room temperature. The precipitate was filtered off, the filtrate was diluted with ether, washed with aqueous hydrochloric acid, saturated NaHCO3 and brine. The organic phase was dried, filtered and evaporated to dryness. The resulting oil-crystal mixture was purified by chromatography to yield 21.4 g of a colorless oil.

reactant | 4-oxo-nonanoic acid | 20 g | O=C(CCC(=O)O)CCCCC | C9H16O3
reactant | geraniol | 19.3 g | CC(C)=CCC\C(\C)=C\CO | C10H18O
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
catalyst | 4-pyrrolidinopyridine | 1.0 g | N1(CCCC1)C1=CC=NC=C1 | C9H12N2
product | 4-Oxo-nonanoic Acid 3,7-Dimethyl-octa-2,6-dienyl Ester | 21.4 g | CC(=CCOC(CCC(CCCCC)=O)=O)CCC=C(C)C | C19H32O3
